US09399636B2
Step 5: 1-benzyl-6′-(3,3-difluoropyrrolidin-1-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)-1,4,5,6-tetrahydro-[3,4′-bipyridin]-2′-amine
To a solution of 4-(1-benzylpyridin-1-ium-3-yl)-6-(3,3-difluoropyrrolidin-1-yl)-N-[4-(trifluoromethyl)-2-pyridyl]pyridin-2-amine (2-d, 500 mg, 0.9756 mmol) in methyl alcohol (12 ml, 300 equiv., 292.7 mmol) was added sodium borohydride (225 mg, 6.0 equiv., 5.853 mmol) in three portions with the interval of 30 min each, and the reaction was stirred at 25° C. for 4 h. The reaction was quenched by citric acid (10% aq.), and extracted EtOAc three times. After evaporation of the organic layers, the crude brown solid was used without further purification. LCMS: m/z 516 (M+H).

reactant | 4-(1-benzylpyridin-1-ium-3-yl)-6-(3,3-difluoropyrrolidin-1-yl)-N-[4-(trifluoromethyl)-2-pyridyl]pyridin-2-amine | 0.9756 mmol, 500 mg | C(C1=CC=CC=C1)[N+]1=CC(=CC=C1)C1=CC(=NC(=C1)N1CC(CC1)(F)F)NC1=NC=CC(=C1)C(F)(F)F
reactant | methyl alcohol | 292.7 mmol, 12 ml, 300 equiv. | CO | CH4O
reactant | sodium borohydride | 5.853 mmol, 225 mg, 6.0 equiv. | [BH4-].[Na+]
product | 1-benzyl-6′-(3,3-difluoropyrrolidin-1-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)-1,4,5,6-tetrahydro-[3,4′-bipyridin]-2′-amine | C(C1=CC=CC=C1)N1C=C(CCC1)C1=CC(=NC(=C1)N1CC(CC1)(F)F)NC1=NC=CC(=C1)C(F)(F)F | C27H26F5N5
